US04447434
(a) 5-bromoacetyl-5,10-dihydro-11H-dibenzo[b,e][1,4]-diazepin-11-one
93 g (0.55 mol) of bromoacetyl chloride were added dropwise, with stirring, to a suspension of 105 g (0.5 mol) of 5,10-dihydro-11H-dibenzo[b,e][1,4]-diazepin-11-one in 1 liter of toluene, at 90° C. The mixture was then refluxed for a further 30 minutes, during which there was a strong development of hydrogen chloride. After cooling, the dark blue crystal slurry obtained was suction filtered;

reactant | bromoacetyl chloride | 0.55 mol, 93 g | BrCC(=O)Cl | C2H2BrClO
reactant | 5,10-dihydro-11H-dibenzo[b,e][1,4]-diazepin-11-one | 0.5 mol, 105 g | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | 5-bromoacetyl-5,10-dihydro-11H-dibenzo[b,e][1,4]-diazepin-11-one | BrCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H11BrN2O2
